US07691879B2
2,3-Dimethyl-6-methoxy-4-phenylisoquinolinium hydroxide
To a stirred solution of 2,3-dimethyl-6-methoxy4-phenyl-2H-isoquinolin-1-one (prepared using the synthetic procedure previously described in WO 2002024655, 250 mg, 0.896mmol) in tetrahydrofuran (10 mL) at room temperature under argon was added by dropwise addition a solution of lithium aluminum hydride (1.0 M, 0.896 mL, 0.896 mmol). The contents of the reaction flask were heated to reflux for 0.5 h, cooled to room temperature and carefully poured onto ice. Saturated sodium bicarbonate was added and the resulting mixture extracted with ethyl acetate (3×). The combined organic extracts were washed with brine and then dried with sodium sulfate (anh.). Filtration followed by removal of the solvent in vacuo gave a brown oil which was subjected to flash column chromatography (hexane:ethyl acetate 90:10). Evaporation of fractions containing product gave a tan oil which was triturated with hot toluene to afford the title compound as a tan solid.

reactant | 2,3-dimethyl-6-methoxy4-phenyl-2H-isoquinolin-1-one | CN1C(C2=CC=C(C=C2C(=C1C)C1=CC=CC=C1)OC)=O | C18H17NO2
reactant | lithium aluminum hydride | 0.896 mmol, 1.0 M, 0.896 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,3-Dimethyl-6-methoxy-4-phenylisoquinolinium hydroxide | [OH-].C[N+]1=CC2=CC=C(C=C2C(=C1C)C1=CC=CC=C1)OC | InChI=1S/C18H18NO.H2O/c1-13-18(14-7-5-4-6-8-14)17-11-16(20-3)10-9-15(17)12-19(13)2;/h4-12H,1-3H3;1H2/q+1;/p-1
